US06576789B1
4-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)benzaldehyde
A suspension of 5 g (33.3 mmol) of 4-formylphenylboronic acid and 3.93 g (33.3 mmol) of pinacol in 25 ml of toluene was refluxed on a water separator. When all the water of reaction had been removed, a clarifying filtration was carried out, and the solvent was removed by distillation until the product started to crystallize, giving 7.2 g (31 mmol) of product.

reactant | 4-formylphenylboronic acid | 33.3 mmol, 5 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | pinacol | 33.3 mmol, 3.93 g | OC(C)(C)C(C)(C)O | C6H14O2
reactant | water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)benzaldehyde | 31 mmol, 7.2 g | CC1(OB(OC1(C)C)C1=CC=C(C=O)C=C1)C | C13H17BO3
